* source PRELAB 3
V_V1         VIN 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=10
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
R_R6         VIN VOUT 1k 
R_R14         0 VOUT4 1k 
V_V9         VIN4 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=10
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
D_D18         N09987 VOUT4 D1N4733 
D_D20         0 VOUT D1N4733 
D_D21         VOUT2 0 D1N4733 
V_V11         VIN3 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=10
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
R_R16         VIN3 VOUT3 1k 
D_D22         N09889 0 D1N4733 
D_D23         N09889 VOUT3 D1N4733 
D_D19         N09987 VIN4 D1N4733 
V_V12         VIN2 0 PWL
+ TIME_SCALE_FACTOR={1/60}
+ VALUE_SCALE_FACTOR=10
+repeat forever
+(0,0) (0.25,1) (0.75,-1) (1,0)
+endrepeat
R_R17         VIN2 VOUT2 1k 
